US08183275B2
3-(3,4-Difluorophenyl)-5-{2-[5-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}-1-methyl-1H-1,2,4-triazole
A solution of 2-{2-[3-(3,4-difluorophenyl)-1-methyl-1H-1,2,4-triazol-5-yl]ethyl}-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide (90 mg, 0.19 mmol) in THF (4 mL) and 2 M HCl (4 mL) was heated at 80° C. overnight. The volatiles were removed and the residue was washed with ethyl acetate, basified with 1 N aqueous sodium hydroxide and extracted with ethyl acetate. The combined phases were dried over sodium sulfate and concentrated to afford the title compound. LC-MS: m/e (374M+H).

reactant | 2-{2-[3-(3,4-difluorophenyl)-1-methyl-1H-1,2,4-triazol-5-yl]ethyl}-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.19 mmol, 90 mg | FC=1C=C(C=CC1F)C1=NN(C(=N1)CCC=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)C | C22H30F2N6O2S
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | HCl | 2 M, 4 mL | Cl | ClH
product | 3-(3,4-Difluorophenyl)-5-{2-[5-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}-1-methyl-1H-1,2,4-triazole | FC=1C=C(C=CC1F)C1=NN(C(=N1)CCC=1NC(=CN1)CC(CC)(C)C)C | C20H25F2N5
